US09302991B2
<Step-1>: (R)-6-((1,1,1-trifluoropropan-2-yl)oxy)nicotinonitrile
The title compound is prepared in 76% yield (592 mg, colorless oil) from 6-chloronicotinonitrile (500 mg, 3.61 mmol) and (R)-1,1,1-trifluoropropan-2-ol instead of 2,2,2-trifluoroethanol by the similar manner in Step-1 of Amine-1.

reactant | 6-chloronicotinonitrile | 3.61 mmol, 500 mg | ClC1=NC=C(C#N)C=C1 | C6H3ClN2
reactant | (R)-1,1,1-trifluoropropan-2-ol | FC([C@@H](C)O)(F)F | C3H5F3O
product | (R)-6-((1,1,1-trifluoropropan-2-yl)oxy)nicotinonitrile | 76% yield | FC([C@@H](C)OC1=NC=C(C#N)C=C1)(F)F | C9H7F3N2O
